US04000302
A solution of 2-((2-aminoethyl)thiomethyl)-3-hydroxypyridine (7.5 g) in ethanol was added slowly to a solution of dimethylcyanodithioimidocarbonate (6.0 g) in ethanol, with stirring at room temperature. The mixture was set aside overnight at room temperature. Filtration afforded N-cyano-N'-[2-((3-hydroxy-2-pyridyl)methylthio)-ethyl]-S-methylisothiourea (4.85 g), m.p. 192°-194°. Recrystallisation from aqueous ethanol gave fine needles, m.p. 196°-198°.

reactant | 2-((2-aminoethyl)thiomethyl)-3-hydroxypyridine | 7.5 g | NCCSCC1=NC=CC=C1O | C8H12N2OS
reactant | dimethylcyanodithioimidocarbonate | 6.0 g | CSC(SC)=NC#N | C4H6N2S2
solvent | ethanol | C(C)O | C2H6O
product | N-cyano-N'-[2-((3-hydroxy-2-pyridyl)methylthio)-ethyl]-S-methylisothiourea | 4.85 g | C(#N)NC(SC)=NCCSCC1=NC=CC=C1O | C11H14N4OS2
